US07625902B2
In analogy to example 2, (S)-2-(2-chloro-benzenesulfonylamino)-3-hydroxy-propionic acid was reacted with 1-[3-(trifluoromethyl)pyrid-2-yl]-piperazine to give 2-chloro-N-{(S)-1-hydroxymethyl-2-oxo-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-ethyl}-benzenesulfonamide as a colorless foam. MS: 493.0 ([M+H]+)

reactant | (S)-2-(2-chloro-benzenesulfonylamino)-3-hydroxy-propionic acid | ClC1=C(C=CC=C1)S(=O)(=O)N[C@H](C(=O)O)CO | C9H10ClNO5S
reactant | 1-[3-(trifluoromethyl)pyrid-2-yl]-piperazine | FC(C=1C(=NC=CC1)N1CCNCC1)(F)F | C10H12F3N3
product | 2-chloro-N-{(S)-1-hydroxymethyl-2-oxo-2-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-ethyl}-benzenesulfonamide | ClC1=C(C=CC=C1)S(=O)(=O)N[C@H](C(N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)=O)CO | C19H20ClF3N4O4S
